US04434167
3.0 g N-(4,6-dimethoxy-5-pyrimidyl)-thiourea are mixed with a sodium-ethylate solution (0.317 g sodium in 30 ml absolute ethanol) and heated for 3 hours under reflux. After cooling the mixture is neutralized. The reaction product is vacuum treated and purified chromatographically on silica gel (developer; chloroform/methanol 95:5). 0.6 g N-(4-ethoxy-6-methoxy-5-pyrimidyl)-thiourea having a melting point of 186° to 187° C. are obtained.

reactant | N-(4,6-dimethoxy-5-pyrimidyl)-thiourea | 3.0 g | COC1=NC=NC(=C1NC(=S)N)OC | C7H10N4O2S
reactant | sodium-ethylate solution | 30 ml, 0.317 g | CC[O-].[Na+]
product | N-(4-ethoxy-6-methoxy-5-pyrimidyl)-thiourea | 0.6 g | C(C)OC1=NC=NC(=C1NC(=S)N)OC | C8H12N4O2S
